US04148909
2,2-Dimethyl-4-(3-trifluoromethylphenyl)-2H-chromene-7-ol
3-Bromobenzotrifluoride (61 g) in dry ether (100 ml was added to magnesium (6.6 g) in ether (50 ml). 2,2-Dimethylchroman-4-one-7-ol (17.4 g) suspended in ether (500 ml) was added and the mixture refluxed for 16 hourss. The reaction mixture was poured into ammonium chloride solution and extracted with ether. The combined ether layers were washed with 2 N HCl (2×100 ml) and dried (MgSO4). Removal of the solvent under reduced pressure gave the title compound (25 g), m.p. 102°-106° C.

reactant | 3-Bromobenzotrifluoride | 61 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 6.6 g | [Mg] | Mg
reactant | 2,2-Dimethylchroman-4-one-7-ol | 17.4 g | CC1(OC2=CC(=CC=C2C(C1)=O)O)C | C11H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2,2-Dimethyl-4-(3-trifluoromethylphenyl)-2H-chromene-7-ol | 25 g | CC1(OC2=CC(=CC=C2C(=C1)C1=CC(=CC=C1)C(F)(F)F)O)C | C18H15F3O2
